US06849639B2
Step C: methyl (3-formylphenyl)-5-oxopyrrolidine-3-carboxylate
To a solution of methyl 1-(3-(hydroxymethyl)phenyl)-5-oxopyrrolidine-3-carboxylate in CH2Cl2 was added pyridinium chlorochromate (PCC). The reaction was stirred at room temperature overnight. The mixture was then filtered through a pad of celite. The filtrate was concentrated in vacuo and the desired product was obtained after silica gel chromatograph. MS (ES+): 248.0 (M+H)+.

reactant | methyl 1-(3-(hydroxymethyl)phenyl)-5-oxopyrrolidine-3-carboxylate | OCC=1C=C(C=CC1)N1CC(CC1=O)C(=O)OC | C13H15NO4
reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methyl (3-formylphenyl)-5-oxopyrrolidine-3-carboxylate | C(=O)C=1C=C(C=CC1)N1CC(CC1=O)C(=O)OC | C13H13NO4
